US09328116B2
Synthesis of 1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]-3-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]pyrrolidin-2-one
A mixture of 3-bromo-1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.110 g, 0.29 mmol), 2-methyl-4-(trifluoromethyl)-1H-imidazole (0.080 g, 0.53 mmol) and K2CO3 (0.080 g, 0.58 mmol) in DMF (1.8 mL) was stirred at 65° C. for 2 hrs. The mixture was then cooled to room temperature, quenched with water (30 mL), extracted with EtOAc (50 mL), and purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to yield the title compound (0.035 g, TFA salt, 21%). 1H NMR (TFA salt) (400 MHz, CDCl3) δ 7.58 (s, 1H), 7.49 (m, 2H), 7.35 (m, 2H), 7.27 (s, 1H), 5.03 (dd, J=10.4, 8.8 Hz, 1H), 3.89 (m, 1H), 3.81 (m, 1H), 3.04 (heptet, J=6.8 Hz, 1H), 2.88 (m, 1H), 2.58 (s, 3H), 2.40 (m, 1H), 1.23 (m, 6H); MS: (ES) m/z calculated for C21H21ClF3N5O [M+H]+452.1. found 452.1.

reactant | 3-bromo-1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.29 mmol, 0.110 g | BrC1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)Cl)=O | C16H17BrClN3O
reactant | 2-methyl-4-(trifluoromethyl)-1H-imidazole | 0.53 mmol, 0.080 g | CC=1NC=C(N1)C(F)(F)F | C5H5F3N2
reactant | K2CO3 | 0.58 mmol, 0.080 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]-3-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]pyrrolidin-2-one | 0.035 g, 21% | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)N1C(=NC(=C1)C(F)(F)F)C)=O | C21H21ClF3N5O
